US06331549B1
1.17 g (10 mmol) of N-methylmorpholine N-oxide, 10 ml of water and 30 ml of acetone are placed in a 100 ml three-necked flask. 0.4 mol of a solution containing 1% by mass of osmium tetroxide in tert-butanol is added dropwise, followed by addition of a solution of 1.4 g (7.6 mmol) of 2,3-dimethyl-8-vinyl-quinoline in 10 ml of acetone. The reaction mixture is stirred for 2 hours at room temperature. 50 ml of water are added and the resulting mixture is extracted with ethyl acetate (3×100 ml). The organic phases are combined, washed with 100 ml of 1% sodium bisulphite solution and 100 ml of 1% sodium bicarbonate solution, dried over magnesium sulphate and concentrated. The residue is purified by chromatography on a column of silica (elution solvent: 30% ethyl acetate in cyclohexane). 1.34 g (yield: 81%) of 2,3-dimethyl-8-(1,2-dihydroxyethyl)quinoline are obtained in the form of a white solid. m.p. =120° C.

reactant | N-methylmorpholine N-oxide | 10 mmol, 1.17 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 10 ml | O | H2O
reactant | 2,3-dimethyl-8-vinyl-quinoline | 7.6 mmol, 1.4 g | CC1=NC2=C(C=CC=C2C=C1C)C=C | C13H13N
reactant | water | 50 ml | O | H2O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2,3-dimethyl-8-(1,2-dihydroxyethyl)quinoline | 1.34 g, yield: 81% | CC1=NC2=C(C=CC=C2C=C1C)C(CO)O | C13H15NO2
